US07144881B2
Step C: (R )-4-of [1-(Fluoro-3-morpholin-4-yl-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester
Sodium hydroxide (3.6 g) was dissolved in water (220 mL). 10 mL of this solution was used to dissolve potassium osmium (VI) oxide dihydrate (434 mg) to get a purple suspension. The rest of the sodium hydroxide solution was treated with t-butyl carbamate (10.666 g) in n-propanol (120 mL), followed by addition of t-butyl hypochlorite (11 mL). This solution was stirred for 5 min, then (DHQD)2PHAL (1466 mg) in n-propanol (120 mL) was added, followed by a solution of 4-(2-Fluoro-5-vinyl-phenyl)-morpholine (5 g) in n-propanol (206 mL) and a solution of potassium osmium (VI) oxide dihydrate previously made. The reaction mixture was stirred at room temperature for 0.5 h. The reaction mixture was quenched with saturated Na2SO3 solution. After concentration, the residue was extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate, concentrated under vacuum. The crude product was purified by flash chromatography eluting with 33% ethyl acetate in hexanes to give the title compound as a solid (2.2 g).

reactant | Sodium hydroxide | 3.6 g | [OH-].[Na+]
reactant | t-butyl carbamate | 10.666 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | t-butyl hypochlorite | 11 mL | ClOC(C)(C)C | C4H9ClO
reactant | (DHQD)2PHAL | 1466 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 4-(2-Fluoro-5-vinyl-phenyl)-morpholine | 5 g | FC1=C(C=C(C=C1)C=C)N1CCOCC1 | C12H14FNO
reactant | n-propanol | 120 mL | C(CC)O | C3H8O
reactant | n-propanol | 120 mL | C(CC)O | C3H8O
reactant | n-propanol | 206 mL | C(CC)O | C3H8O
solvent | water | 220 mL | O | H2O
catalyst | potassium osmium (VI) oxide dihydrate | 434 mg | O.O.[Os](=O)(=O)=O.[K]
product | [1-(Fluoro-3-morpholin-4-yl-phenyl)-2-hydroxy-ethyl]-carbamic acid tert-butyl ester | 2.2 g | C(C)(C)(C)OC(NC(CO)C1=C(C(=CC=C1)N1CCOCC1)F)=O | C17H25FN2O4
